US07109148B2
A mixture of 0.30 g of methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate (compound a-6), 0.06 g of sodium carbonate, and 3.0 ml of n-pentanol was stirred at 100° C. for 1.5 hours. After cooling to room temperature, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.07 g of pentyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate (compound a-20).

reactant | methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | 0.30 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H14ClF4N3O6
reactant | sodium carbonate | 0.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-pentanol | 3.0 ml | C(CCCC)O | C5H12O
solvent | water | O | H2O
product | pentyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | 0.07 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OCCCCC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C24H22ClF4N3O6
